US09126998B2
rac-2-Amino-4-(benzyloxy)-2-methylbutanonitrile
6.37 g (119.1 mmol) of ammonium chloride (dissolved in 15 ml of warm water) and 9 ml (216.6 mmol) of conc. ammonia in water were added to 5.31 g (108.3 mmol) of sodium cyanide in 10 ml of water. 19.3 g (108.3 mmol) of 4-(benzyloxy)butan-2-one, dissolved in 3 ml of ethanol, were then added. The mixture was stirred at RT for 15 min and at 60° C. for 2 h. Another 4 g (81.6 mmol) of sodium cyanide, 4.8 g (89.7 mmol) of ammonium chloride and 6.5 ml (156.4 mmol) of conc. ammonia in water were added and the mixture was stirred at 60° C. for a further 2 h. The reaction solution was then cooled, and 300 ml each of methylenechloride and water were added. After phase separation, the aqueous phase was extracted with 300 ml of methylene chloride. The combined organic phases were dried and concentrated. The crude product was purified on silica gel (cyclohexane/ethyl acetate gradient 6/4-1/1). This gave 19.9 g of the target compound (77% pure, 69% of theory).

reactant | ammonium chloride | 119.1 mmol, 15 ml, 6.37 g | [Cl-].[NH4+]
reactant | ammonia | 216.6 mmol, 9 ml | N | H3N
reactant | sodium cyanide | 108.3 mmol, 5.31 g | [C-]#N.[Na+]
reactant | 4-(benzyloxy)butan-2-one | 108.3 mmol, 19.3 g | C(C1=CC=CC=C1)OCCC(C)=O | C11H14O2
reactant | sodium cyanide | 81.6 mmol, 4 g | [C-]#N.[Na+]
reactant | ammonium chloride | 89.7 mmol, 4.8 g | [Cl-].[NH4+]
reactant | ammonia | 156.4 mmol, 6.5 ml | N | H3N
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | methylenechloride | 300 ml | C(Cl)Cl | CH2Cl2
product | rac-2-Amino-4-(benzyloxy)-2-methylbutanonitrile | NC(C#N)(CCOCC1=CC=CC=C1)C | C12H16N2O
